US04889857
A mixture of 22.5 g of 4-benzyl-2-chloromethylmorpholine, 200 ml of ethanol and 200 ml of an aqueouos 26,7% dimethylamine solution is heated at 150° C. for 5 hours in an autoclave. After completion of the reaction, the solvent is distilled off under reduced pressure. After adding water, the residue is extracted with toluene three times. The extract is washed with water and dried over anhydrous magnesium sulfate. The solvent is distilled off under reduced pressure and the residue is treated with 37% hydrochloric acid-ethanol to give 2-(N,N-dimethylaminomethyl)-4-benzylmorpholine dihydrochloride as white crystals. A mixture of 22.9 g of the hydrochloride compound, 200 ml of ethanol and 100 ml of water is subjected to catalytic reduction with 2.3 g of 10% palladium-carbon at ordinary temperature and atmospheric pressure. After absorbing a theoretical volume of the hydrogen, the catalyst is filtered off and the filtrate is concentrated under reduced pressure. The obtained residue is treated with ethanol to give 2-(N,N-dimethylaminomethyl)morpholine dihydrochloride as white crystals, melting at 270°-271° C.

reactant | 4-benzyl-2-chloromethylmorpholine | 22.5 g | C(C1=CC=CC=C1)N1CC(OCC1)CCl | C12H16ClNO
reactant | dimethylamine | CNC | C2H7N
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-(N,N-dimethylaminomethyl)-4-benzylmorpholine dihydrochloride | Cl.Cl.CN(C)CC1CN(CCO1)CC1=CC=CC=C1 | InChI=1S/C14H22N2O.2ClH/c1-15(2)11-14-12-16(8-9-17-14)10-13-6-4-3-5-7-13;;/h3-7,14H,8-12H2,1-2H3;2*1H
